US05405851
A solution of diethyl (RS)-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate (1.48 g, 4.2 mmol) and 10% palladium on carbon (0.23 g) in ethanol (100 ml) was shaken under hydrogen (30-35 psi) for 40 minutes. The catalyst was filtered off and the filtrate concentrated in vacuo. Purification by chromatography on silica gel eluting with ethyl acetate:hexane (1:1) gave diethyl (RS)-2-(2-(4-aminophenyl)-2-oxoethyl)glutarate (1.07 g) as an oil that solidified on standing. M.P. 58°-61° C. 1H NMR (DMSO-d6), 200 MHz) δ: 1.13 (t, J=7 Hz, 3H, CH3), 1.16 (t, J=7 Hz, 3H, CH3), 1.67-1.87 (m, 2H, CH2), 2.28-2.40 (m, 2H, CH2CO2), 2.72-2.88 (m, 1H, CH), 2.99 (ABX, apparent JAB =17.5 Hz, JAX =4.5 Hz, 1H, COCH--H), 3.19 (ABX, apparent JAB =17.5 Hz, JBX =9.5 Hz, 1H, COCH--H), 4.00 (q, J=7 Hz, 2H, ester CH2), 4.03 (q, J=7 Hz, 2H, ester CH2), 6.04 (br s, 2H, NH2), 6.53 (d, J=9 Hz, 2H, Ar), 7.66 (d, J=9 Hz, 2H Ar). Mass spectrum (CI-CH4): 322 (M+1, 94.4%), 276 (100%). Anal. Calculated for C17H23NO5.0.15 H2O: C, 63.01; H, 7.25; N, 4.32. Found: C, 62.98; H, 7.24; N, 4.28.

reactant | diethyl (RS)-2-(2-(4-nitrophenyl)-2-oxoethyl)glutarate | 4.2 mmol, 1.48 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC(C(=O)OCC)CCC(=O)OCC)=O | C17H21NO7
catalyst | palladium on carbon | 0.23 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | diethyl (RS)-2-(2-(4-aminophenyl)-2-oxoethyl)glutarate | 1.07 g | NC1=CC=C(C=C1)C(CC(C(=O)OCC)CCC(=O)OCC)=O | C17H23NO5
